US06734205B2
A sulfur trioxide-pyridine complex (2.51 g, 15.8 mmol) was added to a solution of N-(aminoiminomethyl)-1,4-dimethyl-7-hydroxy-1H-indole-2-carboxamide methanesulfonate (1.80 g, 5.26 mmol) in pyridine (20 ml), and the resulting mixture was stirred at room temperature for 16.5 hours. The solvent was distilled off under reduced pressure and water was added to the residue. Subsequently, diethyl ether was added thereto, and the solid precipitated was collected by filtration and washed with methanol to obtain 1.43 g of 2-[[[amino(imino)methyl]amino]carbonyl]-1,4-dimethyl-1H-indol-7-yl hydrogen sulfate.

reactant | N-(aminoiminomethyl)-1,4-dimethyl-7-hydroxy-1H-indole-2-carboxamide methanesulfonate | 5.26 mmol, 1.80 g | CS(=O)(=O)O.NN=CNC(=O)C=1N(C2=C(C=CC(=C2C1)C)O)C
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-[[[amino(imino)methyl]amino]carbonyl]-1,4-dimethyl-1H-indol-7-yl hydrogen sulfate | 1.43 g | S(=O)(=O)(OC=1C=CC(=C2C=C(N(C12)C)C(=O)NC(=N)N)C)O | C12H14N4O5S
